US07786132B2
(i) [2-(5,5-Dimethyl-2-oxo-imidazolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester
{2-[(Cyano-dimethyl-methyl)-amino]-ethyl}-carbamic acid tert-butyl ester (0.74 g., 3.3 mmol) was dissolved in THF (2 mL), cooled in an ice bath, and a 1.0 M solution of LiAlH4 in Et2O (6.5 mL, 6.5 mmol) was added dropwise. The resulting suspension was stirred in the ice bath for 3 h and then quenched (i. 0.17 mL of water; ii. 0.17 mL of 4 M aqueous NaOH; iii. 0.84 mL of water). The resulting mixture was diluted with THF (50 mL) and stirred for 15 min. The mixture was filtered and the filtrate concentrated to give an oil. The oil was dissolved in THF (10 mL), DIPEA (1.4 mL) was added, and the mixture was stirred in an ice bath. A solution of p-nitrophenyl chloroformate (800 mg, 4.0 mmol) in THF (8 mL) was added dropwise and the resulting yellow solution was stirred for 16 h. The mixture was concenatrated, dissolved in DCM (50 mL) and washed with 0.5 M HCl (50 mL) followed by saturated aqueous NaHCO3 solution (50 mL). The organic layer was dried (Na2SO4), concentrated and purified by flash chromatography (EtOAc) to give the product as a pale yellow gum (450 mg, 54%).

reactant | {2-[(Cyano-dimethyl-methyl)-amino]-ethyl}-carbamic acid tert-butyl ester | 3.3 mmol, 0.74 g | C(C)(C)(C)OC(NCCNC(C)(C)C#N)=O | C11H21N3O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Et2O | 6.5 mmol, 6.5 mL | CCOCC | C4H10O
reactant | DIPEA | 1.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | p-nitrophenyl chloroformate | 4.0 mmol, 800 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | [2-(5,5-Dimethyl-2-oxo-imidazolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester | 450 mg, 54% | C(C)(C)(C)OC(NCCN1C(NCC1(C)C)=O)=O | C12H23N3O3
